US06384282B2
Pd(TFA)2 (33.0 mg, 0.10 mmol) and 2,6-Bis[(di-tert-butylphosphino)methyl]pyridine (40.0 mg, 0.10 mmol) were suspended in 0.5 mL of toluene in a screw-capped vial. The vial was sealed with a cap containing a PTFE septum and removed from the dry box. Methacrylonitrile (270 mg, 4.00 mmol) and aniline (93.1 mg, 1.00 mmol) were added to the reaction mixture by syringe. The reaction mixture was stirred at room temperature for 24 h, after which time it was adsorbed onto silica gel. The product was isolated by eluting with 15% ethyl acetate/hexanes to give 142 mg (89%) of 2-anilino-1-methylethyl cyanide. 1H NMR: (CDCl3) δ 7.22 (t, J=7.6 Hz, 2H), 6.78 (t, J=7.6 Hz, 1H), 6.63 (d, J=7.6 Hz, 2H), 3.71 (brs, 1H) 3.43 (dd, J=13.8, 8.0 Hz, 1H), 3.37 (dd, J=13.8, 6.0 Hz, 1H), 2.99 (m, 1H), 1.38 (d, J=7.1 Hz, 3H). 13C{1H} NMR: (CDCl3) δ 146.52, 129.50, 121.81, 118.50, 113.04, 47.04, 25.98, 15.39. Anal. Calcd. for C10H12N2: C, 74.97; H, 7.55; N, 17.48. Found: C, 74.75; H, 7.35; N, 17.57.

reactant | 2,6-Bis[(di-tert-butylphosphino)methyl]pyridine | 0.10 mmol, 40.0 mg | C(C)(C)(C)P(C(C)(C)C)CC1=NC(=CC=C1)CP(C(C)(C)C)C(C)(C)C | C23H43NP2
reactant | Methacrylonitrile | 4.00 mmol, 270 mg | C(C(=C)C)#N | C4H5N
reactant | aniline | 1.00 mmol, 93.1 mg | NC1=CC=CC=C1 | C6H7N
solvent | toluene | 0.5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(TFA)2 | 0.10 mmol, 33.0 mg | C(=O)(C(F)(F)F)O.C(=O)(C(F)(F)F)O.[Pd]
product | 2-anilino-1-methylethyl cyanide | 142 mg, 89% | N(C1=CC=CC=C1)CC(C)C#N | C10H12N2
